* F:\Projects\software-smps\ltspice\gate_driver\gate_driver.asc
M1 N002 P001 N001 N001 PMOS
Rload N002 0 100
V1 N001 0 12
Q2 0 N003 P001 0 PNP
Q1 N001 N003 P001 0 NPN
R1 N001 N003 10000
R2 N003 P002 1
M2 P002 N005 0 0 NMOS
V2 N005 0 PULSE(0 3.3 0 0.0000001 0.0000001 0.000001 0 50000)
.model NPN NPN
.model PNP PNP
.lib C:\Users\nikomo\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nikomo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2ms startup
.backanno
.end
